US04281136
3,4-Dichloro-5-ethoxycarbonyl-2-methylisothiazolium fluorosulfonate (4.2 g, 0.012 mol) was added to 50 ml of saturated K2CO3 solution. The aqueous phase was extracted with 3×50 ml of CH2Cl2. Then combined extracts were dried (MgSO4), filtered and conc. to yield a solid. Recrystallization from heptane yielded 1.0 g (35%) of 4-chloro-5-ethoxycarbonyl-2-methyl-4-isothiazolin-3-one, mp 142-147.

reactant | 3,4-Dichloro-5-ethoxycarbonyl-2-methylisothiazolium fluorosulfonate | 0.012 mol, 4.2 g | FS(=O)(=O)[O-].ClC1=[N+](SC(=C1Cl)C(=O)OCC)C
solvent | K2CO3 | 50 ml | C(=O)([O-])[O-].[K+].[K+]
product | 4-chloro-5-ethoxycarbonyl-2-methyl-4-isothiazolin-3-one | 1.0 g, 35% | ClC=1C(N(SC1C(=O)OCC)C)=O | C7H8ClNO3S
